datasets/10k__Tet_Int.csv
SMILES Labelled
"[OH:21][C:20]1(OC)C([H])C(C)C(C)C(CCC)[OH+:10]1>>[OH:10]C(CCC)C(C)C(C)C([H])[C:20](OC)=[OH+:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21]CC>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)[H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OC)C)([O-:21])CC>>C1(C([O:21][C:20](O1)([O-:10])OC)CC)C 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C([H])=C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)/C(C)=C([H])\C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[OH:10]C(C)C(O)C([C:20]([H])=[OH+:21])C>>[OH:21][C:20]1([H])[OH+:10]C(C)C(O)C1C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]CC)([O][H])[O]C.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([O][H])[O]C 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]CC>>CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]C 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCCCCCC)CC)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCCCCCC)CC)[H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[OH:21][CH:20]2(OC)C(C3=C(C([NH+:10]2([H]))[H])C=CC=C3)[H]>>[NH:10]([H])C(C1=C(C([CH:20](OC)=[OH+:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCC)OC1=CC=CC=C1>>[Li][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O:10][H].[H][O+:21]=[C:20]([O]C)[S]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([O]C)[S]C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.C1=CC=CC=C1[O:10][Li] 20=21;21,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[NH]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21][H])([NH][H])[O][H].[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)C)CCCCCC.[O-:21]C>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)CCCCCC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1[H])CC)[H].[O-:21]C>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)[H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)CCCCCC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>[H]C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)CC)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)CC)CCCCCC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CC)CC>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CC)[O-:10])CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CCCCCC)CC 10=20;20,21=21"
